US07402680B2
1-(4-Chloro-benzyl)-3-(4-chloro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
The title compound (260.2 mg) was prepared from 0.55 g of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester, 340 μL of 4-chlorobenzylamine, and 0.51 g of (2-nitro-vinyl)-4-chlorobenzene. MS (ESI): exact mass calculated for C20H18Cl2N2, 356.08; found, m/z 357.1 [M+H]+. 1H NMR (500 MHz, CD3OD): 7.37-7.31 (m, 6H), 7.17-7.13 (m, 3H), 5.15 (s, 2H), 4.35 (s, 2H), 3.51 (t, J=6.3 Hz, 2H), 2.85 (t, J=6.3 Hz, 2H).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 0.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | (2-nitro-vinyl)-4-chlorobenzene | 0.51 g | [N+](=O)([O-])C=CC1=CC=C(C=C1)Cl | C8H6ClNO2
solvent | 4-chlorobenzylamine | 340 μL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | 1-(4-Chloro-benzyl)-3-(4-chloro-phenyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 260.2 mg | ClC1=CC=C(CN2C=C(C=3CNCCC32)C3=CC=C(C=C3)Cl)C=C1 | C20H18Cl2N2
